2141-04-15 22:54:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with transfer to medical floor--now returning with evolving
   sepsis.
   During medical floor admission--patient had ongoing evalation for
   possible sources of adenopathy.
   Today--patient has evolved significant-->
   Worsening lactic acidosis with anion gap elevated at 20
   He has evolved significant decrease in blood pressure to SBP=104
   and in the setting of hyponatremia and worsening renal function is
   admitted to ICU for further care
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier, Able to
   communicate with brother present
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-4-15**] 10:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.5
   HR: 93 (82 - 93) bpm
   BP: 104/57(68) {104/57(68) - 126/73(84)} mmHg
   RR: 18 (18 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,717 mL
                                                                    667 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                  1,297 mL
                                                                    667 mL
   Blood products:
   Total out:
                                                                  2,790 mL
                                                                    390 mL
   Urine:
                                                                  2,790 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,927 mL
                                                                    277 mL
   Respiratory support
   SpO2: 92%
   ABG: ///12/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   124 K/uL
   52 mg/dL
   1.5 mg/dL
   12 mEq/L
   5.8 mEq/L
   30 mg/dL
   97 mEq/L
   127 mEq/L
   32.6 %
   17.9 K/uL
        [image002.jpg]
                             [**2141-4-14**]  01:52 AM
                             [**2141-4-15**]  09:12 PM
   WBC
   14.5
   17.9
   Hct
   31.1
   32.6
   Plt
   142
   124
   Cr
   1.2
   1.5
   Glucose
   52
   52
   Other labs: PT / PTT / INR:15.5/31.0/1.4, CK / CKMB / Troponin-T:37//,
   ALT / AST:34/139, Alk Phos / T Bili:142/0.5, Amylase / Lipase:28/60,
   Differential-Neuts:86.0 %, Band:7.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:408 mg/dL, Lactic Acid:4.5 mmol/L, Albumin:2.4 g/dL,
   LDH:5092 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   62 yo male who is s/p renal transplant and initially presenting with
   feve of unknown origin.  He has possible diagnosis of PTLD raised given
   adenopathy and markedly elevated LDH in the setting of relative
   stability in terms of blood pressure, heart rate at initial ICU stay.
   Now, on the medical floor patient has evolved significant acidosis and
   worsening blood pressure in the setting of significant tachypnea.  This
   is all consistent with evolving sepsis.  The possible sources are
   extensive and do include bacterial sources as antibiotics had been
   discontinued for a time during admission.  Fungal sepsis is possible in
   the setting of chronic immunosupression.  In addition disseminated TB
   must be considered.  Despite this differential no cultures have
   returned positive to date.  Certainly malignancy--either PTLD or
   possibly related to thickened GB is also possible.
   1)Sepsis-
   -Continue broad spectrum ABX
   Add Fluconazole now
   CVL to be placed to allow rapid volume support
   -Will have to follow up on final CT read but no focal source of
   infection identified
   -Will need LN biopsy for aid in diagnosis
   2)Acidosis-
   -This is significant and clearly lactic acidosis related
   -Support for Sepsis as above
   3)Acute Renal Failure-
   -Is likely a component of pre-renal failure but with elevated urine Na
   certainly intrinsic renal dysfunction is likely
   -Send U/A for casts
   -Support volume
   -No further dye loads
   4)Hyponatremia-
   Will replace volume
   WIll use 3% Saline for decrease in Na given elevated urine OSMS
   Additional issues to be addressed as defined in the housestaff note of
   this date.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-4-15**] 07:47 PM
   20 Gauge - [**2141-4-15**] 07:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2141-04-16 07:46:00 Physician Resident Progress Note
Chief Complaint: Fever
   24 Hour Events:
 MULTI LUMEN - START [**2141-4-15**] 11:16 PM
 MULTI LUMEN - START [**2141-4-15**] 11:19 PM
 MULTI LUMEN - START [**2141-4-15**] 11:19 PM
 MULTI LUMEN - STOP [**2141-4-15**] 11:35 PM
 MULTI LUMEN - STOP [**2141-4-15**] 11:48 PM
 FEVER - 101.5
F - [**2141-4-15**] 08:00 PM
   - 4L NS for BP support
   - CVL
   - Surgery c/s - to go to OR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-4-15**] 10:45 PM
   Vancomycin - [**2141-4-15**] 11:30 PM
   Fluconazole - [**2141-4-15**] 11:42 PM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-15**] 11:30 PM
   Dextrose 50% - [**2141-4-16**] 06:09 AM
   Review of systems is unchanged from admission except as noted below
   Review of systems: fever, hypoglycemia, s/p transplant, renal failure
   Flowsheet Data as of  [**2141-4-16**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36
C (96.8
   HR: 84 (82 - 109) bpm
   BP: 115/66(78) {102/57(68) - 126/73(84)} mmHg
   RR: 22 (18 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 9 (9 - 15)mmHg
   Total In:
                                                                  2,546 mL
                                                                  3,589 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                  2,246 mL
                                                                  3,489 mL
   Blood products:
   Total out:
                                                                    390 mL
                                                                    830 mL
   Urine:
                                                                    390 mL
                                                                    830 mL
   NG:
   Balance:
                                                                  2,156 mL
                                                                  2,759 mL
   Physical Examination
   HEENT:
   CV:
   Pulm:
   Abd:
   Ext:
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   94 K/uL
   9.7 g/dL
   34 mg/dL
   1.3 mg/dL
   12 mEq/L
   4.3 mEq/L
   25 mg/dL
   105 mEq/L
   133 mEq/L
   30.8 %
   18.4 K/uL
        [image002.jpg]
                             [**2141-4-14**]  01:52 AM
                             [**2141-4-15**]  05:17 PM
                             [**2141-4-15**]  09:12 PM
                             [**2141-4-16**]  12:20 AM
                             [**2141-4-16**]  04:59 AM
   WBC
   14.5
   17.9
   18.4
   Hct
   31.1
   32.6
   30.8
   Plt
   142
   124
   94
   Cr
   1.2
   1.5
   1.4
   1.3
   TropT
   <0.01
   Glucose
   52
   52
   68
   34
   Other labs: PT / PTT / INR:15.9/38.5/1.4, CK / CKMB /
   Troponin-T:37//<0.01, ALT / AST:29/124, Alk Phos / T Bili:135/0.5,
   Amylase / Lipase:28/60, Differential-Neuts:61.0 %, Band:12.0 %,
   Lymph:8.0 %, Mono:8.0 %, Eos:1.0 %, Fibrinogen:312 mg/dL, Lactic
   Acid:7.8 mmol/L, Albumin:2.2 g/dL, LDH:4200 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   This is a 62 yo M with history of renal transplant and hypertension who
   is presented with one week of high fevers and lactate >7. The patient
   now returns to the ICU with evolving sepsis.  CT abd/pel showed marked
   lymphadenopathy concerning for PTLD versus lymphoma.  The source of the
   patient's elevated lactate is still unclear, differential includes
   tumor lysis v ischemia.  Infectious source could include bacteria in
   the absence of antibiotics, fungemia given chronic steroid use,
   disseminated TB, strongyloides, and cholecystitis given radiographic
   evidence of gallbladder wall thickening.
   .
   # Fever/Leukocytosis/Sepsis:  Etiologies could include bacteria in the
   absence of antibiotics, fungemia given chronic steroid use,
   disseminated TB, strongyloides, and cholecystitis given radiographic
   evidence of gallbladder wall thickening.  Lactate could also be due to
   tumor lysis. Uric acid and potassium are elevated supporting tumor
   lysis
   - Follow up blood, urine cultures
   - CIS
   - Consider LP for further FUO work up
   - [**Doctor Last Name **] cefepime, add vanc and fluconazole
   - f/u final read CT
   - general surgery for excisional lymph node biopsy
   - CVL for rapid volume repletion
   - f/u EBV PCR
   - f/u CMV and HVC viral load
   - aggressive fluid, with monitoring BP / CVP
   # Acidosis - Likely due to sepsis as above but could also be due to
   tumor lysis if this is, in fact, a lymphoma.  CK low so muscle not
   likley source of lactate.
   - continue fluids and support for sepsis as above
   - trend lactate
   #  Hyponatremia - Pt given large volume of free D5W today.  Urine osms
   and Na high.  Will challenge with normal saline.
   - continue NS resuscitation if Na responds to bolus, switch to 3%
   saline if Na down
   .
   # Hypoglycemia - possibley due to tumor burden v hepatic dysfunction.
   Continuing while
   - glucose gtt, D5W but consider D10
   .
   # Elevated LDH: Differential includes hemolysis, malignancy such as
   lymphoma, PTLD, PCP/histoplasmosis or other fungal infections. No
   history of malignancy, though he would be at risk for PCP in given
   immunosuppression.
   - appreciate heme-onc consult
   - will need excisional biopsy
   - uric acid and K elevated, c/w tumor lysis but phos low
   - continue fluconazole.
   # Kidney disease s/p transplant: Has history of renal transplant in
   [**Country 297**] 3 years ago. [**Month (only) 51**] be prerenal in the setting of
   hypovolemia/infection, though may be baseline. Stable over the last few
   days at [**Hospital1 **] (was up to 1.6 there, now back down to 1.3). Patient
   did bring in records of his creatinine over time in [**Country 297**], units in
   umol/dL.  Elevated urine Na may also suggest a component of intinisic
   renal dysfunction.  If this is tumor lysis, concern for urate
   nephropathy.
   - urine lytes. FeNa
   - Continue IVF resuscitation as above
   - Follow UOP  very closely
   - Continue prednisone, cyclosporin and cellcept
   - appreciate transplant nephrology rec's
   - no further dye if possible
   #  Hematemesis - coffee grounds an some bright red blood 3/21, guaiac
   positive.  Per chart, has prior history of ulcer.  NGT to suction
   without evidence of further bleeding.
   - PPI [**Hospital1 7**]
   - monitor HCT
   - consider GI consult
   # HTN: Patient currently normotensive to hypotensive.
   - Given patient's unclear picture and current HD stability, will hold
   nifedipine CR for now. Can restart if becomes hypertensive
   .
   # FEN:  aggressive IVFs, electrolytes prn,  NPO for surgery
   # Prophylaxis: [**Name (NI) 6433**], PPI, Pt's neice reports a "reaction" to
   heparin in the past, bleeding somewhere but not HIT.  Has active T&S
   # Access: Left subclavian  CVL
   # Code: Full Code
   # Communication: Patient and son, [**Name (NI) 6398**] [**Telephone/Fax (1) 6399**]
   # Disposition: ICU for now pending above
   ICU Care
   Nutrition: NPO
   Glycemic Control:   Glucose gtt
   Lines:
   18 Gauge - [**2141-4-15**] 07:47 PM
   20 Gauge - [**2141-4-15**] 07:48 PM
   Multi Lumen - [**2141-4-15**] 11:16 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2141-04-16 08:46:00 Physician Attending Progress Note
Chief Complaint: Persistent fevers, lactic acidosis, leukocytosis;
   possible sepsis
   24 Hour Events:
   Readmitted to ICU overnight and seen by Dr. [**Last Name (STitle) **].  He has been
   relatively hypotensive following admission, recieved fluid
   resucitation.  Surgery plans to take to OR today for exploratory lap;
   biopsy of lymphnode for possible PTLD.  Hypoglycemic overnight, placed
   on D5-bicarb drip with next glucose level pending.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-4-15**] 10:45 PM
   Vancomycin - [**2141-4-15**] 11:30 PM
   Fluconazole - [**2141-4-15**] 11:42 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-15**] 11:30 PM
   Dextrose 50% - [**2141-4-16**] 06:09 AM
   Other medications:
   Thiamine - held
   Cefepime
   Prednisone 5mg daily
   MMF
   Vancomycin
   Fluconazole
   Cyclosporin
   Changes to medical and family history:
   No change
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-16**] 08:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36
C (96.8
   HR: 84 (82 - 109) bpm
   BP: 115/66(78) {102/57(68) - 126/73(84)} mmHg
   RR: 22 (18 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 9 (9 - 15)mmHg
   Total In:
                                                                  2,546 mL
                                                                  4,098 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                  2,246 mL
                                                                  3,998 mL
   Blood products:
   Total out:
                                                                    390 mL
                                                                  1,050 mL
   Urine:
                                                                    390 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,156 mL
                                                                  3,048 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: /7.29/21/75
   Physical Examination
   General Appearance: Anxious
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   94 K/uL
   34 mg/dL
   1.3 mg/dL
   12 mEq/L
   4.3 mEq/L
   25 mg/dL
   105 mEq/L
   133 mEq/L
   30.8 %
   18.4 K/uL
        [image002.jpg]
                             [**2141-4-14**]  01:52 AM
                             [**2141-4-15**]  05:17 PM
                             [**2141-4-15**]  09:12 PM
                             [**2141-4-16**]  12:20 AM
                             [**2141-4-16**]  04:59 AM
   WBC
   14.5
   17.9
   18.4
   Hct
   31.1
   32.6
   30.8
   Plt
   142
   124
   94
   Cr
   1.2
   1.5
   1.4
   1.3
   TropT
   <0.01
   Glucose
   52
   52
   68
   34
   Other labs: PT / PTT / INR:15.9/38.5/1.4, CK / CKMB /
   Troponin-T:37//<0.01, ALT / AST:29/124, Alk Phos / T Bili:135/0.5,
   Amylase / Lipase:28/60, Differential-Neuts:61.0 %, Band:12.0 %,
   Lymph:8.0 %, Mono:8.0 %, Eos:1.0 %, Fibrinogen:312 mg/dL, Lactic
   Acid:7.8 mmol/L, Albumin:2.2 g/dL, LDH:4200 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   62M with history of renal transplant; admitted in setting of fevers and
   lactic acidosis who has evolved over the course of the last several
   days with persistent fevers, hypoglycemia, relative hypotension.
   Suspect possible PTLD or lymphoma with tumor lysis sydrome given
   markedly elevated LDH, uric acid, lymphadenopathy.  Plans to go to OR
   today for biopsy.   Following biopsy, will likely start steroids for
   lymphoma.
   - To OR this afternoon for biopsy; likely ex-lap given abdominal LAD.
   - Heme-onc following; possible treatment with steroids following
   biopsy; path will be reviewed intraoperatively.
   - Continue antibiotics given concern for possible infectious etiology.
   2. Hypoglycemia:
    - given persistent hypoglycemia, possibly related to tumor lysis or
   infectious process. Will start D50 drip.
   3. Renal: h/o transplant in [**Country 297**] three years ago.
   - continue current immunosuppresion; dosed for declined renal function.
   - continue hydration aggressively
   4. Hypotension: currently MAPs in 70-80 range with SBP 90-100;
   typically he has hypertension.  CVP is 10; will continue to monitor
   UOP, BP, CVP to determine fluid boluses. Requires hydration for
   possible tumor lysis.
   ICU Care
   Nutrition: NPO for surgery
   Glycemic Control:  hypoglycemic, monitoring
   Lines:
   18 Gauge - [**2141-4-15**] 07:47 PM
   20 Gauge - [**2141-4-15**] 07:48 PM
   Multi Lumen - [**2141-4-15**] 11:16 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Code status: Full code
   Disposition : ICU
   Total time spent:  45 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2141-4-16**] 15:40 ------

2141-04-17 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis, unclear etiology
   24 Hour Events:
 INVASIVE VENTILATION - START [**2141-4-16**] 06:27 PM
 ARTERIAL LINE - START [**2141-4-16**] 06:58 PM
 ARTERIAL LINE - START [**2141-4-16**] 10:29 PM
 ARTERIAL LINE - STOP [**2141-4-16**] 11:04 PM
 DIALYSIS CATHETER - START [**2141-4-17**] 03:03 AM
   - Increased back pain: started on Morphine 1mg IV q2H PRN prior to
   surgery
   - Final CT A/P W/O CONTRAST Study Date of [**2141-4-13**] 11:19 PM
   1. Multiple enlarged mesenteric and retroperitoneal nodes. The most
   likely possibilities are lymphoma and post-transplant
   lymphoproliferative disorder. Several nodes are accessible for
   percutaneous sampling by CT guidance.
   2. Marked gallbladder wall edema likely relates to third spacing.
   - Renal Transplant recs: cyclosporine 50mg po Q12 while on Fluconazole,
   continue IVF, check haptoglobin level, check AM cyclosporine level
   - ID recs: Continue current antibiotics, send lymphnode for bacterial
   culture, fungal culture and AFB testing; unlikely that extrapulmonary
   TB would present with such decompensation, starting treatment overnight
   would not change course so rec await further data
   - Heme-onc recs: to open lymphnode biopsy, await results; could
   consider steroids empirically if clinically worsens, though this is not
   ideal given concern for infectious etiology
   - Bone marrow biopsy performed at bedside by Heme-Onc: preliminary
   without clonality
   - Surgery recs: patient consented, active T&C; post-op consider Echo
   for hemodynamic analysis, check bladder pressure to r/o abdominal
   compartment syndrome
   - Hypoglycemic: ?sepsis vs tumor burden, started on D10 gtt then
   transitioned to [**1-27**] pushes PRN to minimize IVF
   - Laproscopic evaluation: revealed free fluid that appeared was
   heterogeneous, studded liver; obtained bx of lymphnodes, liver and sent
   fluid for studies
   - Preliminary path: No evidence of clonality on flow, touch prep
   without monocellular component, cannot clearly rule-out lymphoma but no
   informatin to direct therapy at this point
   - Steroids added at 11pm: Decadron 4mg QID
   - CvO2 sat = 94 at 11pm; started Vasopressin --> repeat CvO2 94 1am
   - Repeat CXR in evening with worsening volume overload & continued poor
   uop; attempting to minimize fluid intake
   - L femoral HD line placed at 3am --> strarted CVVH at 5am
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2141-4-16**] 10:30 AM
   Cefipime - [**2141-4-16**] 08:37 PM
   Vancomycin - [**2141-4-17**] 12:03 AM
   Metronidazole - [**2141-4-17**] 05:03 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 2 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Dextrose 50% - [**2141-4-16**] 09:09 AM
   Morphine Sulfate - [**2141-4-16**] 06:48 PM
   Fentanyl - [**2141-4-16**] 10:02 PM
   Pantoprazole (Protonix) - [**2141-4-16**] 11:30 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2141-4-17**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, Weight loss
   Ear, Nose, Throat: Dry mouth, OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Genitourinary: Foley, Dialysis, CVVH
   Heme / Lymph: Lymphadenopathy, Anemia, Coagulopathy
   Flowsheet Data as of  [**2141-4-17**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 35.8
C (96.5
   HR: 80 (80 - 133) bpm
   BP: 77/51(64) {68/48(58) - 118/71(92)} mmHg
   RR: 28 (10 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 18 (6 - 239)mmHg
   CO/CI (Fick): (86.4 L/min) / (44.4 L/min/m2)
   Mixed Venous O2% Sat: 94 - 94
   Total In:
                                                                 14,111 mL
                                                                  2,861 mL
   PO:
   TF:
   IVF:
                                                                 13,861 mL
                                                                  2,661 mL
   Blood products:
   Total out:
                                                                  1,854 mL
                                                                    335 mL
   Urine:
                                                                  1,854 mL
                                                                    102 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 12,257 mL
                                                                  2,526 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 29 cmH2O
   SpO2: 98%
   ABG: 7.00/29/173/9/-23
   Ve: 15.9 L/min
   PaO2 / FiO2: 288
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   80 K/uL
   9.4 g/dL
   111 mg/dL
   1.8 mg/dL
   9 mEq/L
   4.8 mEq/L
   25 mg/dL
   98 mEq/L
   137 mEq/L
   30.6 %
   43.1 K/uL
        [image002.jpg]
                             [**2141-4-16**]  05:17 PM
                             [**2141-4-16**]  06:48 PM
                             [**2141-4-16**]  06:52 PM
                             [**2141-4-16**]  08:09 PM
                             [**2141-4-16**]  09:35 PM
                             [**2141-4-16**]  10:51 PM
                             [**2141-4-16**]  11:07 PM
                             [**2141-4-17**]  01:37 AM
                             [**2141-4-17**]  02:31 AM
                             [**2141-4-17**]  05:18 AM
   WBC
   29.9
   43.1
   Hct
   31
   33.3
   29
   30
   30.5
   30.6
   Plt
   88
   80
   Cr
   1.4
   1.8
   TCO2
   12
   13
   15
   11
   9
   8
   8
   Glucose
   34
   67
   111
   Other labs: PT / PTT / INR:18.1/36.8/1.7, CK / CKMB /
   Troponin-T:37//<0.01, ALT / AST:34/298, Alk Phos / T Bili:169/1.1,
   Amylase / Lipase:28/60, Differential-Neuts:76.0 %, Band:7.0 %,
   Lymph:2.0 %, Mono:5.0 %, Eos:1.0 %, Fibrinogen:314 mg/dL, Lactic
   Acid:20.2 mmol/L, Albumin:2.0 g/dL, LDH:[**Numeric Identifier 6449**] IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 ACIDOSIS, MIXED
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   This is a 62 yo M with history of renal transplant and hypertension who
   is presented with one week of high fevers and lactate >7. The patient
   now returns to the ICU with possible evolving sepsis.  CT abd/pel
   showed marked lymphadenopathy concerning for PTLD versus lymphoma.  The
   source of the patient's elevated lactate is still unclear, differential
   includes tumor lysis v ischemia.  Infectious source could include
   bacteria in the absence of antibiotics, fungemia given chronic steroid
   use, disseminated TB, strongyloides, and cholecystitis given
   radiographic evidence of gallbladder wall thickening.
   # Fever/Leukocytosis/Sepsis:  Etiologies could include bacteria in the
   absence of antibiotics, fungemia given chronic steroid use,
   disseminated TB, strongyloides, and cholecystitis given radiographic
   evidence of gallbladder wall thickening.  Lactate could also be due to
   tumor lysis. Uric acid and potassium are elevated supporting tumor
   lysis
   - Follow up blood, urine cultures
   - CIS
   - Consider LP for further FUO work up
   - continue cefepime, add vanc and fluconazole
   - general surgery for excisional lymph node biopsy
   - CVL
   - f/u EBV PCR
   - f/u CMV and HVC viral load
   - aggressive fluid, with monitoring BP / CVP
   - Heme recs
   - ID recs: switch to [**Last Name (un) **] from cefipime
   - Renal transplant recs: stop immunosuppression EXCEPT for steroids
   - General surgery recs
   # Acidosis - Likely due to sepsis as above but could also be due to
   tumor lysis if this is, in fact, a lymphoma.  CK low so muscle not
   likley source of lactate.
   - continue fluids and support for sepsis as above
   - trend lactate
   - bicarb gtt, CVVH
   - Ventilator set at 28 rate to blow down pCO2, monitor for auto-PEEP
   #  Hyponatremia - Pt given large volume of free D5W today.  Urine osms
   and Na high.  Will challenge with normal saline.
   - continue NS resuscitation if Na responds to bolus, switch to 3%
   saline if Na down
   .
   # Hypoglycemia - possibly due to tumor burden v hepatic dysfunction.
   - glucose gtt, D5W but consider D10
   .
   # Elevated LDH: Differential includes hemolysis, malignancy such as
   lymphoma, PTLD, PCP/histoplasmosis or other fungal infections. No
   history of malignancy, though he would be at risk for PCP in given
   immunosuppression.
   - appreciate heme-onc consult
   - uric acid and K elevated, c/w tumor lysis but phos low
   - continue fluconazole
   # Kidney disease s/p transplant: Has history of renal transplant in
   [**Country 297**] 3 years ago. [**Month (only) 51**] be prerenal in the setting of
   hypovolemia/infection, though may be baseline. Stable over the last few
   days at [**Hospital1 **] (was up to 1.6 there, now back down to 1.3). Patient
   did bring in records of his creatinine over time in [**Country 297**], units in
   umol/dL.  Elevated urine Na may also suggest a component of intinisic
   renal dysfunction.  If this is tumor lysis, concern for urate
   nephropathy.
   - urine lytes. FeNa
   - Continue IVF resuscitation as above
   - Follow UOP  very closely
   - Continue prednisone, cyclosporin and cellcept
   - appreciate transplant nephrology recs
   - no further contrast dye if possible
   #  Hematemesis - coffee grounds an some bright red blood 3/21, guaiac
   positive.  Per chart, has prior history of ulcer.  NGT to suction
   without evidence of further bleeding.
   - PPI [**Hospital1 7**]
   - monitor HCT
   - consider GI consult
   # HTN: Patient currently hypotensive on pressors (Neo & vasopressin).
   - Given patient's unclear picture and current HD stability, will hold
   nifedipine CR for now. Can restart if becomes hypertensive
   .
   # FEN:  aggressive IVFs, electrolytes prn,  NPO for surgery
   # Prophylaxis: [**Name (NI) 6433**], PPI, Pt's neice reports a "reaction" to
   heparin in the past, bleeding somewhere but not HIT.  Has active T&S
   # Access: Left subclavian  CVL, L femoral HD line
   # Code: Full Code
   # Communication: Patient and son, [**Name (NI) 6398**] [**Telephone/Fax (1) 6399**]
   # Disposition: ICU for now pending above
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-4-15**] 07:48 PM
   Multi Lumen - [**2141-4-15**] 11:16 PM
   16 Gauge - [**2141-4-16**] 06:58 PM
   Arterial Line - [**2141-4-16**] 10:29 PM
   Dialysis Catheter - [**2141-4-17**] 03:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2141-04-17 09:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 y/o m Mandarin speaking s/p renal tx for IgA nephropathy, fevers for
   2 weeks PTA, taken a cephalosporin as o/p for a week, admitted to MWH
   from [**Date range (1) 6453**], sent home, p/w fever here on [**4-13**], lactate 7.5,
   admitted to MICU organge. CT torso showed possible mesenteric adenitis.
   Briefly in MICU for 1 day, given IVF, sent EBV, CMV, felt may be PTLD.
   Transferred to floor on [**4-14**]. CT abd with contrast on Sat which showed
   mesenteric and RP LAD, suspicious for PTLD. Heme Onc consulted. Started
   on cefepime/vanco, fluconazole added. Over weekend began having upper
   back pain and SOB. Went to OR Sunday for ex lap, which showed studding
   of liver with semisolid masses, biopsies done. Came back with
   6.91/59/151 on 1.0. Lactate 10.3 up to 20 overnight. On neo from OR. CV
   sat 94%. Started on vasopressin, added decadron and flagyl. Started
   CVVH at 3am this am.
   24 Hour Events:
   Now bleeding from HD line crack. Renal fellow at bedside replacing
   line. BMBx done at bedside. Developed hypoglycemia and started D10 gtt.
   CXR showing inc fluid overload.
 INVASIVE VENTILATION - START [**2141-4-16**] 06:27 PM
 ARTERIAL LINE - START [**2141-4-16**] 06:58 PM
 ARTERIAL LINE - START [**2141-4-16**] 10:29 PM
 ARTERIAL LINE - STOP [**2141-4-16**] 11:04 PM
 DIALYSIS CATHETER - START [**2141-4-17**] 03:03 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2141-4-16**] 10:30 AM
   Cefipime - [**2141-4-16**] 08:37 PM
   Vancomycin - [**2141-4-17**] 12:03 AM
   Metronidazole - [**2141-4-17**] 05:03 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Fentanyl - 300 mcg/hour
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2141-4-16**] 09:09 AM
   Morphine Sulfate - [**2141-4-16**] 06:48 PM
   Fentanyl - [**2141-4-16**] 10:02 PM
   Pantoprazole (Protonix) - [**2141-4-16**] 11:30 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2141-4-17**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-17**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 35.8
C (96.5
   HR: 80 (80 - 133) bpm
   BP: 77/51(64) {68/48(58) - 118/71(92)} mmHg
   RR: 28 (10 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 18 (6 - 239)mmHg
   CO/CI (Fick): (86.4 L/min) / (44.4 L/min/m2)
   Mixed Venous O2% Sat: 94 - 94
   Total In:
                                                                 14,111 mL
                                                                  3,003 mL
   PO:
   TF:
   IVF:
                                                                 13,861 mL
                                                                  2,803 mL
   Blood products:
   Total out:
                                                                  1,854 mL
                                                                    335 mL
   Urine:
                                                                  1,854 mL
                                                                    102 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 12,257 mL
                                                                  2,668 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 29 cmH2O
   SpO2: 98%
   ABG: 7.03/31/201/9/-22
   Ve: 15.9 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   80 K/uL
   63 mg/dL
   1.8 mg/dL
   9 mEq/L
   4.8 mEq/L
   25 mg/dL
   98 mEq/L
   137 mEq/L
   30.6 %
   43.1 K/uL
        [image002.jpg]
                             [**2141-4-16**]  06:48 PM
                             [**2141-4-16**]  06:52 PM
                             [**2141-4-16**]  08:09 PM
                             [**2141-4-16**]  09:35 PM
                             [**2141-4-16**]  10:51 PM
                             [**2141-4-16**]  11:07 PM
                             [**2141-4-17**]  01:37 AM
                             [**2141-4-17**]  02:31 AM
                             [**2141-4-17**]  05:18 AM
                             [**2141-4-17**]  08:07 AM
   WBC
   29.9
   43.1
   Hct
   33.3
   29
   30
   30.5
   30.6
   Plt
   88
   80
   Cr
   1.4
   1.8
   TCO2
   13
   15
   11
   9
   8
   8
   9
   Glucose
   67
   111
   63
   Other labs: PT / PTT / INR:18.1/36.8/1.7, CK / CKMB /
   Troponin-T:37//<0.01, ALT / AST:34/298, Alk Phos / T Bili:169/1.1,
   Amylase / Lipase:28/60, Differential-Neuts:76.0 %, Band:7.0 %,
   Lymph:2.0 %, Mono:5.0 %, Eos:1.0 %, Fibrinogen:314 mg/dL, Lactic
   Acid:20.1 mmol/L, Albumin:2.0 g/dL, LDH:[**Numeric Identifier 6449**] IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 ACIDOSIS, MIXED
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   1. Metabolic/lactic acidosis:
   -[**Month (only) 51**] be [**2-27**] lymphoma and sepsis
   -f/u cultures
   -vanco/[**Last Name (un) 614**]/flagyl/fluconazole
   -f/u ID recs and Heme recs
   -CVVH
   2. Resp failure: [**2-27**] high MV from acidosis, now appears to have PNA
   -check autoPEEP
   -follow ABGs q4h
   -sputum cx
   2. Sepsis:
   -vaso and neo
   -TTE
   -sputum
   -C. Diff
   -stress dose decadron
   -r/o strongyloides
   3. ARF: likely [**2-27**] ATN
   -hold CSA and MMF
   -cont. steroids
   4. Hypoglycemia: Likely [**2-27**] sepsis, liver dysfunction
   -cont. D10 gtt
   5. Coagulopathy: Likely [**2-27**] hepatic dysfunction, fibrinogen normal
   -tx FFP if bleeding
   -giving PRBCs for bleeding from HD line
   6. FEN: NPO for now
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: on D10 gtt
   Lines:
   20 Gauge - [**2141-4-15**] 07:48 PM
   Multi Lumen - [**2141-4-15**] 11:16 PM
   16 Gauge - [**2141-4-16**] 06:58 PM
   Arterial Line - [**2141-4-16**] 10:29 PM
   Dialysis Catheter - [**2141-4-17**] 03:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was present with the ICU team for the
   key portions of services provided. 62 year old male s/p kidney
   transplant for IG nephropathy, with fevers and lymphadenopathy. Since
   undergoing exploratory lap and LN biopsy yesterday, he was remained
   hypotensive and despite bicarb infusion and bicarb boluses, severely
   acidotic with worsening lactic acidosis. Flow cytometry negative for a
   monocellular process; LN and BMBx results pending. This morning,
   worsening shock in the context of cracked HD line/acute blood loss
   anemia
 line replaced.
   Worsening lactic acidosis /shock: with negative cultures to date, lack
   of response to broad spectrum abx, underlying medical history and LAD
   am concerned for aggressive lymphoma /tumor lysis
not able to offer
   definitive therapy without a path dx, but has been started on
   allopurinol and steroids.
   Plan supportive therapy for acidosis, acute renal failure, acute
   respiratory failure while we wait for his biopsy results to return: on
   bicarb/CVVH for  acid-base status, intubation/ventilator support,
   neo/vasopressin for shock, blood transfusion for acute blood loss
   anemia.
   Pt is critically ill. Total time spent: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2141-4-17**] 13:15 ------
   Conference held with family (son, wife, [**Name2 (NI) **], nephew, interpreter)
   earlier this afternoon, at which point results were still pending. Was
   subsequently informed that Bx results (+) for aggressive lymphoma. Too
   ill for systemic chemo as he remains acidotic on CVVH/bicarbonate
   infusion and is now requiring 3 pressors to maintain a MAP>65, but will
   be re-evaluated should his status change. Pt
s [**Name2 (NI) **] updated with these
   results.
   An additional 80 minutes was spent on this pt this afternoon.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2141-4-17**] 18:32 ------

2141-04-18 07:21:00 Physician Resident Progress Note
Chief Complaint: Fevers
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2141-4-17**] 09:32 AM
 DIALYSIS CATHETER - START [**2141-4-17**] 10:00 AM
   - Changed to [**Last Name (un) **]/Vanc/Flagyl/Fluc
   - Stopped immunosuppression (except steroids)
   - CVVH
   - HD line cracked, replaced over wire
   - transfused 2 u pRBCs
   - HemeOnc: Biopsy has shown this to be a lymphoma most
   consistent with a late PTLD (post-transplant lymphoproliferative
   disease).  This disorder is CD10- and thus not
   a Burkitt's lymphoma however it appears very aggressive in
   nature.  The MIB fraction is pending.
   - We would recommend steroids at a dose of >1mg/kg prednisone (or
   equivilant) to treat his newly diagnosed lymphoma.
   - Stop his immunosuppression as you have done.
   - While he is on the steroids please monitor closely for tumor
   lysis with q6h K, Ph, Ca, LDH, UA, and creat.
   - Continue to follow up final pathology on his biopsies including
   EBV.
   - At this time he is too unstable to consider chemotherapy as he
   is intubated, on pressors, on CVVH.  In addition he is CD20- so
   Rituxan is not an option.  If he improves in terms of his overall
   condition we would consider chemotherapy in the future.
   - If he has no improvement by the end of the week we would
   recommend readdressing goals of care.
   - Started Ganciclovir per ID recs
   - 7.20/26/114/11, lactate 28 at 10 PM
   - ABGs improved o/n with CVVH and vent changes
   - Weaned levophed to off, weaned down Neo
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-4-17**] 08:00 AM
   Fluconazole - [**2141-4-17**] 02:00 PM
   Gancyclovir - [**2141-4-17**] 08:00 PM
   Meropenem - [**2141-4-18**] 12:00 AM
   Vancomycin - [**2141-4-18**] 12:00 AM
   Metronidazole - [**2141-4-18**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 300 mcg/hour
   Calcium Gluconate (CRRT) - 4 grams/hour
   Phenylephrine - 4 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Midazolam (Versed) - 10 mg/hour
   Insulin - Regular - 30 units/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2141-4-17**] 11:28 AM
   Pantoprazole (Protonix) - [**2141-4-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-18**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 106 (75 - 112) bpm
   BP: 127/78(96) {76/50(62) - 135/81(99)} mmHg
   RR: 26 (19 - 28) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 8 (8 - 18)mmHg
   Total In:
                                                                 13,941 mL
                                                                  3,947 mL
   PO:
   TF:
   IVF:
                                                                 13,166 mL
                                                                  3,947 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  7,814 mL
                                                                  3,282 mL
   Urine:
                                                                    145 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,127 mL
                                                                    665 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 700) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 36 cmH2O
   Plateau: 26 cmH2O
   SpO2: 92%
   ABG: 7.34/39/95.[**Numeric Identifier 218**]/19/-4
   Ve: 19.3 L/min
   PaO2 / FiO2: 119
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   43 K/uL
   8.8 g/dL
   826 mg/dL
   1.6 mg/dL
   19 mEq/L
   3.2 mEq/L
   20 mg/dL
   73 mEq/L
   134 mEq/L
   27.2 %
   18.1 K/uL
        [image002.jpg]
                             [**2141-4-17**]  05:24 PM
                             [**2141-4-17**]  05:35 PM
                             [**2141-4-17**]  06:52 PM
                             [**2141-4-17**]  09:36 PM
                             [**2141-4-17**]  09:51 PM
                             [**2141-4-17**]  11:33 PM
                             [**2141-4-17**]  11:49 PM
                             [**2141-4-18**]  03:03 AM
                             [**2141-4-18**]  03:18 AM
                             [**2141-4-18**]  05:22 AM
   WBC
   18.1
   Hct
   27.2
   Plt
   43
   Cr
   1.5
   1.6
   TCO2
   11
   11
   11
   14
   21
   22
   Glucose
   447
   440
   643
   716
   826
   Other labs: PT / PTT / INR:29.3/46.1/3.0, CK / CKMB /
   Troponin-T:37//<0.01, ALT / AST:34/298, Alk Phos / T Bili:169/1.1,
   Amylase / Lipase:28/60, Differential-Neuts:72.0 %, Band:11.0 %,
   Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:314 mg/dL, Lactic
   Acid:24.6 mmol/L, Albumin:2.0 g/dL, LDH:[**Numeric Identifier 6484**] IU/L, Ca++:9.1 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: Flow cytometry - P
   Bone marrow biopsy - P
   Lymph node biopsy - P
   Imaging: ECHO - [**4-17**] - The left atrium is dilated. The right atrium is
   moderately dilated. Left ventricular wall thickness, cavity size and
   regional/global systolic function are normal (LVEF >55%). Due to
   suboptimal technical quality, a focal wall motion abnormality cannot be
   fully excluded. The right ventricular cavity is mildly dilated with
   normal free wall contractility. The aortic valve leaflets (3) are
   mildly thickened but aortic stenosis is not present. No masses or
   vegetations are seen on the aortic valve, but cannot be fully excluded
   due to suboptimal image quality. The mitral valve leaflets are mildly
   thickened. No masses or vegetations are seen on the mitral valve, but
   cannot be fully excluded due to suboptimal image quality. There is
   moderate pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   IMPRESSION: poor technical quality due to patient's body habitus. No
   evidence of endocarditis (cannot be excluded). Left ventricular
   function is probably normal, a focal wall motion abnormality cannot be
   fully excluded. The right ventricle appears mildly dilated. No
   pathologic valvular abnormality seen. Moderate pulmonary artery
   systolic hypertension.
   Microbiology: Toxo, EBV, CMV, Lyme - P
   Assessment and Plan
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SHOCK, SEPTIC
 ACIDOSIS, MIXED
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOCALCEMIA (LOW CALCIUM)
 HYPOTHERMIA
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   This is a 62 yo M with history of renal transplant and hypertension who
   is presented with one week of high fevers and lactate >7. The patient
   now returns to the ICU with possible evolving sepsis.  CT abd/pel
   showed marked lymphadenopathy concerning for PTLD versus lymphoma.  The
   source of the patient's elevated lactate is still unclear, differential
   includes tumor lysis v ischemia.  Infectious source could include
   bacteria in the absence of antibiotics, fungemia given chronic steroid
   use, disseminated TB, strongyloides, and cholecystitis given
   radiographic evidence of gallbladder wall thickening.
   # Fever/Leukocytosis/Sepsis:  Etiologies could include bacteria in the
   absence of antibiotics, fungemia given chronic steroid use,
   disseminated TB, strongyloides, and cholecystitis given radiographic
   evidence of gallbladder wall thickening.  Lactate could also be due to
   tumor lysis. Uric acid and potassium are elevated supporting tumor
   lysis
   - Follow up blood, urine cultures
   - CIS
   - Consider LP for further FUO work up
   - continue cefepime, add vanc and fluconazole
   - general surgery for excisional lymph node biopsy
   - CVL
   - f/u EBV PCR
   - f/u CMV and HVC viral load
   - aggressive fluid, with monitoring BP / CVP
   - Heme recs
   - ID recs: switch to [**Last Name (un) **] from cefipime
   - Renal transplant recs: stop immunosuppression EXCEPT for steroids
   - General surgery recs
   # Acidosis - Likely due to sepsis as above but could also be due to
   tumor lysis if this is, in fact, a lymphoma.  CK low so muscle not
   likley source of lactate.
   - continue fluids and support for sepsis as above
   - trend lactate
   - bicarb gtt, CVVH
   - Ventilator set at 28 rate to blow down pCO2, monitor for auto-PEEP
   #  Hyponatremia - Pt given large volume of free D5W today.  Urine osms
   and Na high.  Will challenge with normal saline.
   - continue NS resuscitation if Na responds to bolus, switch to 3%
   saline if Na down
   .
   # Hypoglycemia - possibly due to tumor burden v hepatic dysfunction.
   - glucose gtt, D5W but consider D10
   .
   # Elevated LDH: Differential includes hemolysis, malignancy such as
   lymphoma, PTLD, PCP/histoplasmosis or other fungal infections. No
   history of malignancy, though he would be at risk for PCP in given
   immunosuppression.
   - appreciate heme-onc consult
   - uric acid and K elevated, c/w tumor lysis but phos low
   - continue fluconazole
   # Kidney disease s/p transplant: Has history of renal transplant in
   [**Country 297**] 3 years ago. [**Month (only) 51**] be prerenal in the setting of
   hypovolemia/infection, though may be baseline. Stable over the last few
   days at [**Hospital1 **] (was up to 1.6 there, now back down to 1.3). Patient
   did bring in records of his creatinine over time in [**Country 297**], units in
   umol/dL.  Elevated urine Na may also suggest a component of intinisic
   renal dysfunction.  If this is tumor lysis, concern for urate
   nephropathy.
   - urine lytes. FeNa
   - Continue IVF resuscitation as above
   - Follow UOP  very closely
   - Continue prednisone, cyclosporin and cellcept
   - appreciate transplant nephrology recs
   - no further contrast dye if possible
   #  Hematemesis - coffee grounds an some bright red blood 3/21, guaiac
   positive.  Per chart, has prior history of ulcer.  NGT to suction
   without evidence of further bleeding.
   - PPI [**Hospital1 7**]
   - monitor HCT
   - consider GI consult
   # HTN: Patient currently hypotensive on pressors (Neo & vasopressin).
   - Given patient's unclear picture and current HD stability, will hold
   nifedipine CR for now. Can restart if becomes hypertensive
   .
   # FEN:  aggressive IVFs, electrolytes prn,  NPO for surgery
   # Prophylaxis: [**Name (NI) 6433**], PPI, Pt's neice reports a "reaction" to
   heparin in the past, bleeding somewhere but not HIT.  Has active T&S
   # Access: Left subclavian  CVL, L femoral HD line
   # Code: Full Code
   # Communication: Patient and son, [**Name (NI) 6398**] [**Telephone/Fax (1) 6399**]
   # Disposition: ICU for now pending above
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-4-15**] 07:48 PM
   Multi Lumen - [**2141-4-15**] 11:16 PM
   16 Gauge - [**2141-4-16**] 06:58 PM
   Arterial Line - [**2141-4-16**] 10:29 PM
   Dialysis Catheter - [**2141-4-17**] 03:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2141-4-15**] 07:48 PM
   Multi Lumen - [**2141-4-15**] 11:16 PM
   16 Gauge - [**2141-4-16**] 06:58 PM
   Arterial Line - [**2141-4-16**] 10:29 PM
   Dialysis Catheter - [**2141-4-17**] 10:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2141-04-18 08:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   BMBx and Liver lesion bx showed high grade lymphoma. Not currently a
   candidate for chemo given instability. Started on ganciclovir. Now on
   neo and vaso for BP. On CVVH. Spiked a temp of 101 on CVVH.
 DIALYSIS CATHETER - STOP [**2141-4-17**] 09:32 AM
 DIALYSIS CATHETER - START [**2141-4-17**] 10:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-4-17**] 08:00 AM
   Fluconazole - [**2141-4-17**] 02:00 PM
   Gancyclovir - [**2141-4-17**] 08:00 PM
   Meropenem - [**2141-4-18**] 12:00 AM
   Vancomycin - [**2141-4-18**] 12:00 AM
   Metronidazole - [**2141-4-18**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Calcium Gluconate (CRRT) - 4 grams/hour
   Phenylephrine - 4 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Midazolam (Versed) - 10 mg/hour
   Insulin - Regular - 30 units/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2141-4-17**] 11:28 AM
   Pantoprazole (Protonix) - [**2141-4-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-18**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 114 (75 - 114) bpm
   BP: 100/66(77) {76/50(62) - 135/81(99)} mmHg
   RR: 26 (19 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
   CVP: 8 (8 - 18)mmHg
   Total In:
                                                                 13,941 mL
                                                                  5,440 mL
   PO:
   TF:
   IVF:
                                                                 13,166 mL
                                                                  5,440 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  7,814 mL
                                                                  3,435 mL
   Urine:
                                                                    145 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,127 mL
                                                                  2,005 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 700) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   SpO2: 95%
   ABG: 7.31/36/81.[**Numeric Identifier 508**]/19/-7
   Ve: 15.7 L/min
   PaO2 / FiO2: 82
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffuse, Wheezes : end insp)
   Abdominal: Non-tender, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   43 K/uL
   826 mg/dL
   1.6 mg/dL
   19 mEq/L
   3.2 mEq/L
   20 mg/dL
   73 mEq/L
   134 mEq/L
   27.2 %
   18.1 K/uL
        [image002.jpg]
                             [**2141-4-17**]  05:35 PM
                             [**2141-4-17**]  06:52 PM
                             [**2141-4-17**]  09:36 PM
                             [**2141-4-17**]  09:51 PM
                             [**2141-4-17**]  11:33 PM
                             [**2141-4-17**]  11:49 PM
                             [**2141-4-18**]  03:03 AM
                             [**2141-4-18**]  03:18 AM
                             [**2141-4-18**]  05:22 AM
                             [**2141-4-18**]  07:30 AM
   WBC
   18.1
   Hct
   27.2
   Plt
   43
   Cr
   1.5
   1.6
   TCO2
   11
   11
   11
   14
   21
   22
   19
   Glucose
   [**Telephone/Fax (3) 6493**]26
   Other labs: PT / PTT / INR:29.3/46.1/3.0, CK / CKMB /
   Troponin-T:37//<0.01, ALT / AST:34/298, Alk Phos / T Bili:169/1.1,
   Amylase / Lipase:28/60, Differential-Neuts:72.0 %, Band:11.0 %,
   Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:314 mg/dL, Lactic
   Acid:24.0 mmol/L, Albumin:2.0 g/dL, LDH:[**Numeric Identifier 6484**] IU/L, Ca++:9.1 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SHOCK, SEPTIC
 ACIDOSIS, MIXED
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOCALCEMIA (LOW CALCIUM)
 HYPOTHERMIA
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   Plan:
   1. Lactic acidosis:
   -cont. CVVH
   -talk to renal about not running positive if possible
   -cont. steroids
   2. ID:
   -stop vanco/flagyl/fluconazole
   -cont. meropenem
   -ganciclovir for possible EBV
   -f/u O+P
   3. Resp: Now meeting criteria for ARDS, 6cc/kg TV 490, currently
   acidosis is limiting
   -titrate down FiO2 for goal PaO2 >60
   3. Hyperglycemia: On insulin gtt
   -cont. FS q1h
   4. Coagulopathy:
   -hct > 25, plt >10, give plt and FFP if bleeding
   5. ARF:
   -CVVH
   -off immunosuppressives except steroids
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2141-4-15**] 07:48 PM
   Multi Lumen - [**2141-4-15**] 11:16 PM
   16 Gauge - [**2141-4-16**] 06:58 PM
   Arterial Line - [**2141-4-16**] 10:29 PM
   Dialysis Catheter - [**2141-4-17**] 10:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of the services provided. I agree with Dr. [**First Name (STitle) 2721**]
s note as
   outlined above, and would add: 62 yo male s/p renal transplant for IgA
   nephropathy, visiting his son from [**Name (NI) 297**], admitted with several wks of
   fevers and abdominal LAD with rapid clinical deterioration: acute
   respiratory failure, shock, rising lactic acidosis. By BMBx and LN Bx
   has an aggressive lymphoma, CD20 negative, but too ill for systemic
   chemotherapy. Course has remained tenuous overnight with continued
   shock requiring 3 pressors to maintain MAP, acute respiratory failure
   requiring high FiO2 for acceptable oxygentation. Acid-base status
   improved from yesterday, though mostly this is reflective of more
   aggressive dialysis infusion as lactate remains high (17-22).
   Problem [**Name (NI) **]
   1. Lymphoma- too ill for systemic chemo, but have increased steroids
   and remains on allopurinol for tumor lysis, ganciclovir for ?EBV. Off
   other immunosuprressants. Rest of biopsy results still pending to
   further characterize his lymphoma
   2. Sepsis: possible that his course reflects the severity and
   aggressiveness of his lymphoma rather than a superimposed infecitous
   process, but remains on broad spectrum antibiotics pending return of
   culture results. On merepenem, vanco /flagyl dc
d. ID consult team
   following.
   3. Lactic acidosis- on CVVH and intermittently bicarb infusion.
   4. Acute respiratory failure: Reasonable oxygenation and ventilation on
   AC ventilation, but high FiO2 requirement. Can try increasing PEEP if
   improved oxygenation needed, though this may drop his blood pressure.
   5. Shock: on 3 pressors and ongoing fluid resuscitation. Starting
   vigileo to help guide management.
   6. LFT abnormalities: likely reflects shock liver but will check RUQ
   u/s
   Pt is critically ill. Total time spent: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2141-4-18**] 16:51 ------